US07786114B2
To a solution of 0.141 cm3 of cyclopropylamine in 6 cm3 of dichloromethane, under an inert atmosphere of argon at a temperature in the region of 20° C., are added 0.2 g of 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde and 0.4 g of sodium sulfate. Stirring is continued for 48 hours at room temperature. 6 cm3 of methanol and 0.031 g of sodium borohydride are added. The reaction medium is stirred at the same temperature for 24 hours. 100 cm3 of dichloromethane are added. The precipitate formed is filtered off and the filtrate is concentrated under reduced pressure and then purified by flash column chromatography (SiO2, dichloromethane/ethyl acetate 80/20 by volume as eluents) to give 0.110 g of cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-amine with the following characteristics:

reactant | cyclopropylamine | 0.141 cm3 | C1(CC1)N | C3H7N
reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde | 0.2 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=O)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H22N4O5S
reactant | sodium sulfate | 0.4 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 0.031 g | [BH4-].[Na+]
solvent | dichloromethane | 6 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | methanol | 6 cm3 | CO | CH4O
product | cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-amine | 0.110 g | C1(CC1)NCC1=C2C(=NC=C1)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)C)S(=O)(=O)C1=CC=C(C=C1)C | C28H29N5O4S
